US04096341
A mechanically stirred mixture of 15.6 g (0.15 M) of 2,2-dimethyl-1,3-propanediol, 92.25 g (0.5 M) of 4-carboxybenzoyl chloride and 500 ml of pyridine was refluxed under a nitrogen atmosphere. The resulting mixture was concentrated to dryness under reduced pressure, dispersed in 500 ml of distilled water, and acidified to pH 1 with concentrated hydrochloric acid. The precipitate was filtered off, washed three times with distilled water, and dried overnight at 100° C in a vacuum oven. The product was extracted for 5 days with 2 liters of hot benzene. The extract, on cooling, yielded 48.2 g of 4,4'-[(2,2-dimethyl-1,3-propanediyl)bis(oxycarbonyl)]bis(benzoic acid) melting at 287°-288° C. The infrared spectrum was consistent with the proposed structure and the compound was found to contain 5.13 meq of CO2H/g which corresponded to a molecular weight of 390 for the diacid.

reactant | 2,2-dimethyl-1,3-propanediol | 0.15 M, 15.6 g | CC(CO)(CO)C | C5H12O2
reactant | 4-carboxybenzoyl chloride | 0.5 M, 92.25 g | C(=O)(O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO3
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 4,4'-[(2,2-dimethyl-1,3-propanediyl)bis(oxycarbonyl)]bis(benzoic acid) | 48.2 g | CC(COC(=O)C1=CC=C(C(=O)O)C=C1)(COC(=O)C1=CC=C(C(=O)O)C=C1)C | C21H20O8
